US07598264B2
6-(3-Chloro-4-fluorobenzyl)-4-methoxy-2-methyl-3,5-dioxo-2,3,5,6,7,8-hexahydro-2,6-naphthyridine-1-carboxylic acid
To a solution of methyl 6-(3-chloro-4-fluorobenzyl)-4-methoxy-2-methyl-3,5-dioxo-2,3,5,6,7,8-hexahydro-2,6-naphthyridine-1-carboxylate (14.3 g, 35 mmol) in THF (1501 mL) and MeOH (150 mL) was added LiOH (2.74 g, 114 mmol) dissolved in 114 mL water and the reaction was heated to 50° C. for 45 minutes. HPLC showed completion. The reaction was neutralized with 1N HCl and cooled to room temperature. THF was removed in vacuo, and the resulting slurry was partitioned between CHCl3 and 5% aqueous HCl. The aqueous was washed with additional CHCl3. The combined organics were dried over sodium sulfate, filtered, and concentrated to dryness to afford the desired product as a pale yellow foam. The material was crystallized from ethyl acetate to give a light yellow solid.

reactant | methyl 6-(3-chloro-4-fluorobenzyl)-4-methoxy-2-methyl-3,5-dioxo-2,3,5,6,7,8-hexahydro-2,6-naphthyridine-1-carboxylate | 35 mmol, 14.3 g | ClC=1C=C(CN2C(C3=C(C(N(C(=C3CC2)C(=O)OC)C)=O)OC)=O)C=CC1F | C19H18ClFN2O5
reactant | LiOH | 114 mmol, 2.74 g | [Li+].[OH-]
reactant | HCl | 1N | Cl | ClH
solvent | THF | 1501 mL | C1CCOC1 | C4H8O
solvent | MeOH | 150 mL | CO | CH4O
solvent | water | 114 mL | O | H2O
product | 6-(3-Chloro-4-fluorobenzyl)-4-methoxy-2-methyl-3,5-dioxo-2,3,5,6,7,8-hexahydro-2,6-naphthyridine-1-carboxylic acid | ClC=1C=C(CN2C(C3=C(C(N(C(=C3CC2)C(=O)O)C)=O)OC)=O)C=CC1F | C18H16ClFN2O5
